US05543409
In 100 ml of tetrahydrofuran was suspended 5.7 g of lithium aluminum hydride, and 150 ml of a solution containing 18.9 g of 2-(propionylamino) indane dissolved in tetrahydrofuran was added dropwise to the suspension. The mixture was refluxed under heating for 2 hours. After cooling, excess lithium aluminum hydride was treated with a saturated ammonium chloride aqueous solution, and insolubles were removed by filtration. The filtrate was concentrated, and chloroform was added to the residue. The mixture was washed with water and dried, and the solvent was removed to obtain 17.5 g of 2-(propylamino) indane.

reactant | lithium aluminum hydride | 5.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(propionylamino) indane | 18.9 g | C(CC)(=O)NC1CC2=CC=CC=C2C1 | C12H15NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(propylamino) indane | 17.5 g | C(CC)NC1CC2=CC=CC=C2C1 | C12H17N
